US09193693B2
Step 2. 3-(4-Fluorophenyl)-2-(4-(4-(trifluoromethyl)phenyl)piperidin-1-yl)quinoxaline-6-carboxylic acid
Into a 50-mL round-bottom flask, was placed a solution of methyl 3-(4-fluorophenyl)-2-(4-(4-(trifluoromethyl)phenyl)piperidin-1-yl)quinoxaline-6-carboxylate (120 mg, 0.24 mmol, 1.00 equiv) in methanol (20 mL) and a solution of sodium hydroxide (47.2 mg, 1.18 mmol, 5.00 equiv) in water (2 mL). The resulting solution was stirred for 3 h at 50° C. in an oil bath. The resulting mixture was concentrated under vacuum. The resulting solution was diluted with 30 mL of water. The pH value of the aqueous solution was adjusted to 3 with 1N hydrochloric acid. The resulting solids were collected by filtration and washed with 10 mL×1 of water. The solid was dried in an oven under reduced pressure. The solid was purified by re-crystallization from methanol. This resulted in 60 mg (51%) of 3-(4-fluorophenyl)-2-(4-(4-(trifluoromethyl)phenyl)piperidin-1-yl)quinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 3-(4-fluorophenyl)-2-(4-(4-(trifluoromethyl)phenyl)piperidin-1-yl)quinoxaline-6-carboxylate | 0.24 mmol, 120 mg, 1.00 equiv | FC1=CC=C(C=C1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)N1CCC(CC1)C1=CC=C(C=C1)C(F)(F)F | C28H23F4N3O2
reactant | sodium hydroxide | 1.18 mmol, 47.2 mg, 5.00 equiv | [OH-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | 3-(4-Fluorophenyl)-2-(4-(4-(trifluoromethyl)phenyl)piperidin-1-yl)quinoxaline-6-carboxylic acid | FC1=CC=C(C=C1)C=1C(=NC2=CC=C(C=C2N1)C(=O)O)N1CCC(CC1)C1=CC=C(C=C1)C(F)(F)F | C27H21F4N3O2
